US07273865B2
To a stirred solution of 550 g (26.7 mmol) 2-(3,6-dihydro-2H-pyran-4-yl)-4-nitro-pyridine in 230 ml tetrahydrofuran and 5 ml glacial acetic acid was added 2.84 g of 10% palladium on charcoal and the mixture was then stirred for 16 h under an atmosphere of hydrogen at room temperature and 1.7 bar pressure. The mixture was then filtered, washing with methanol, and the filtrate concentrated in vacuo. Flash chromatography (methanol/dichloromethane/triethylamine 100/5/1) afforded 4.75 g (100%) 2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine as a light yellow oil. ES-MS m/e (%): 179 (M+H+, 100).

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4-nitro-pyridine | 26.7 mmol, 550 g | O1CCC(=CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C10H10N2O3
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 2.84 g | [Pd] | Pd
product | 2-(tetrahydro-pyran-4-yl)-pyridin-4-ylamine | 4.75 g, 100% | O1CCC(CC1)C1=NC=CC(=C1)N | C10H14N2O
